US04436726
Starting from 3-(9-octadecenoyloxy)-11-eicosenoic acid (3.2 g) prepared by the method described in Preparation 8 and L-valine (4.42 g), N-[3-(9-octadecenoyloxy)-11-eicosenoyl]-L-valine (2.7 g) was obtained as powders according to a similar manner to that of Example 6.

reactant | 3-(9-octadecenoyloxy)-11-eicosenoic acid | 3.2 g | C(CCCCCCCC=CCCCCCCCC)(=O)OC(CC(=O)O)CCCCCCCC=CCCCCCCCC | C38H70O4
reactant | L-valine | 4.42 g | N[C@@H](C(C)C)C(=O)O | C5H11NO2
product | N-[3-(9-octadecenoyloxy)-11-eicosenoyl]-L-valine | 2.7 g | C(CCCCCCCC=CCCCCCCCC)(=O)OC(CC(=O)N[C@@H](C(C)C)C(=O)O)CCCCCCCC=CCCCCCCCC | C43H79NO5
